US04696944
A. 2-benzyl-4-hydroxycyclopent-2-en-1-one
A mixture of 2-benzylcyclopent-2-en-1-one and N-bromosuccinimide in dry carbon tetrachloride (150 ml) is refluxed for 1 hour, cooled and filtered. The filtrate is concentrated under reduced pressure to approx. 100 ml, and mixed with a stirred suspension of silver acetate (5 g) in acetic acid (150 ml). The resulting mixture is heated to 50° C. for 30 minutes and then stirred at room temperature overnight. The mixture is filtered, poured onto H2O (50 ml) and extracted with methylene chloride (150 ml×3). The combined extracts are washed with water ag. sodium bicarbonate, ag. sodium chloride, dried and concentrated under reduced pressure. (b.pt. is 128°-132° at 0.05 mmHg). The crude acetate is added to a solution of KOH (1.1 g) in 10% aqueous MeOH (100 ml) and stirred at room temperature for 40 minutes, poured onto dil.HCl and extracted with Et20 (×3). The combined extracts are washed with water dried, concentrated under reduced pressure and finally distilled. The ketone has b.pt 150°-154° C. at 0.04 mmHg and nD 1.5562.

reactant | 2-benzylcyclopent-2-en-1-one | C(C1=CC=CC=C1)C=1C(CCC1)=O | C12H12O
reactant | N-bromosuccinimide | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | carbon tetrachloride | 150 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 2-benzyl-4-hydroxycyclopent-2-en-1-one | C(C1=CC=CC=C1)C=1C(CC(C1)O)=O | C12H12O2
